US05710314
With vigorous stirring at 5° C., chlorodifluoromethane is passed into a solution of 5.7 g of 3-hydroxy-2-[2-(2-methylphenoxymethyl)phenyl]-acrylic acid methyl ester and 0.19 g of 15-crown-5 in 95 ml of N-methylpyrrolidone while simultaneously adding dropwise a solution of 5.34 g of sodium hydroxide in 6.7 ml of water and the reaction mixture is left to react for 1.5 hours. The reaction mixture is then poured onto ice-water, acidified with 4N hydrochloric acid and extracted exhaustively with ethyl acetate. The combined organic phases are washed with a sodium chloride solution, dried over sodium sulfate, filtered and concentrated by evaporation. Chromatography on silica gel with hexane/ethyl acetate (9:1) yields pure 3-difluoromethoxy-2-[2-(2-methylphenoxymethyl)phenyl]-acrylic acid methyl ester in the form of a highly viscous oil that crystallises upon being left to stand. M.p.: sinlets from 68° C., clear molten at 77° C. MS: role 348 M+ (6), 241 (100)

reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | 3-hydroxy-2-[2-(2-methylphenoxymethyl)phenyl]-acrylic acid methyl ester | 5.7 g | COC(C(=CO)C1=C(C=CC=C1)COC1=C(C=CC=C1)C)=O | C18H18O4
reactant | 15-crown-5 | 0.19 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | sodium hydroxide | 5.34 g | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | N-methylpyrrolidone | 95 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 6.7 ml | O | H2O
product | 3-difluoromethoxy-2-[2-(2-methylphenoxymethyl)phenyl]-acrylic acid methyl ester | COC(C(=COC(F)F)C1=C(C=CC=C1)COC1=C(C=CC=C1)C)=O | C19H18F2O4
